US06410585B1
5-((2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-{[3-(isopropylamino)propyl]amino}-3-oxopropyl)-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid and N-isopropyl-1,3-propanediamine (34 mg) according to Method B to give the title compound (26 mg). 1H-NMR (400 MHz, CD3OD) d 7.46 (d, J=2.2 Hz, 1H), 7.36 (dd, J=2.2 Hz, J=6.2 Hz, 1H), 7.29-7.20 (m, 5H), 7.08 (d, J=8.4 Hz, 1H), 4.68 (s, 2H), 4.44 (dd, J=5.7 Hz, J=9.9 Hz, 1H), 4.30 (dd, J=5.5 Hz, J=9.2 Hz, 1H), 3.27 (m, 2H), 3.06 (m, 2H), 2.89 (dd, J=10.1 Hz, J=13.0 Hz, 1H), 2.80 (m, 2H), 2.65 (m, 2H), 1.30 (dd, J=2.9 Hz, J=6.6 Hz); IR (KBr) cm−1; HRMS m/z 628.3082 (calc. of monoisotopic mass for C32H44N4O9 gives 628.3108).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | N-isopropyl-1,3-propanediamine | 34 mg | C(C)(C)NCCCN | C6H16N2
product | 5-((2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-{[3-(isopropylamino)propyl]amino}-3-oxopropyl)-2-(carboxymethoxy)benzoic Acid | 26 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)NCCCNC(C)C)CC1=CC=CC=C1 | C32H44N4O9
